US04437878
15.1 parts by weight of methyl 3-keto-1,5-dihydrothiophene-4-carboxylate, 14.2 parts by weight of cyclohexylurea and 0.5 part by weight of p-toluenesulfonic acid in 100 parts by weight of xylene were refluxed for 4 hours in an apparatus equipped with a water separator. The mixture was cooled, and the residue was then filtered off under suction and recrystallized from toluene. 20.3 parts by weight of N-cyclohexyl-N'-(3-methoxycarbonyl-2,5-dihydrothien-4-yl)-urea of melting point 154°-155° C. were obtained.

reactant | methyl 3-keto-1,5-dihydrothiophene-4-carboxylate | O=C1CSCC1C(=O)OC | C6H8O3S
reactant | cyclohexylurea | C1(CCCCC1)NC(=O)N | C7H14N2O
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | xylene | C=1(C(=CC=CC1)C)C | C8H10
solvent | water | O | H2O
product | N-cyclohexyl-N'-(3-methoxycarbonyl-2,5-dihydrothien-4-yl)-urea | C1(CCCCC1)NC(=O)NC1=C(CSC1)C(=O)OC | C13H20N2O3S
